US07498440B2
4-[(3-bromopropyl)oxy]benzonitrile
To a solution of 4-hydroxybenzonitrile (0.109 g, 0.913 mmol) in acetonitrile (4 mL) was added 1,3-dibromopropane (0.930 mL, 9.16 mmol) followed by Cs2CO3 (0.439 g, 1.35 mmol). The reaction mixture was stirred for 24 h and then concentrated under vacuum. The resulting residue was treated with H2O (4 mL) and extracted with DCM (8 mL). The organic layer was dried through a phase separator and concentrated under vacuum. The residue was taken up in DMSO and purified by preparatory HPLC (without TFA) to give the title compound (0.156 g, 71.4%). EI-MS Rt (2.10 min).

reactant | 4-hydroxybenzonitrile | 0.913 mmol, 0.109 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | 1,3-dibromopropane | 9.16 mmol, 0.930 mL | BrCCCBr | C3H6Br2
reactant | Cs2CO3 | 1.35 mmol, 0.439 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 4-[(3-bromopropyl)oxy]benzonitrile | 0.156 g, 71.4% | BrCCCOC1=CC=C(C#N)C=C1 | C10H10BrNO
